US08492395B2
To a stirred solution of 4-methyl-2-nitro-benzoic acid methyl ester (108.5 g, 555.7 mmol) in acetonitrile (750 mL), was added NBS (97.9 g, 550.1 mmol). The mixture was heated to a gentle reflex with a 200 W light bulb on for 5.5 hours. The solvent was evaporated, and the residue was dissolved in ethyl acetate (1500 mL). The solution was washed with water (2×600 mL) and brine (300 mL), dried over magnesium sulfate, and concentrated to give a brown oil. To the oil, was added t-butyl methyl ether (300 mL). The mixture was heated at 70° C. for 15 minutes. The mixture was allowed to cool to about 53° C. over one hour, then to 45° C., and then at 20-25° C., while blowing nitrogen with a glass pipette overnight. The suspension was filtered via a medium pore-sized funnel. The solid was washed with a pre-cooled 10° C. mixed solvent of heptane/MTBE (1/2 vol/vol) and suction dried in hood overnight to give 4-bromomethyl-2-nitro-benzoic acid methyl ester as an off-white solid (66 g, 43% yield). The solid was used in the next step without further purification.

reactant | 4-methyl-2-nitro-benzoic acid methyl ester | 555.7 mmol, 108.5 g | COC(C1=C(C=C(C=C1)C)[N+](=O)[O-])=O | C9H9NO4
reactant | NBS | 550.1 mmol, 97.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | t-butyl methyl ether | 300 mL | COC(C)(C)C | C5H12O
solvent | acetonitrile | 750 mL | C(C)#N | C2H3N
product | 4-bromomethyl-2-nitro-benzoic acid methyl ester | 66 g, 43% yield | COC(C1=C(C=C(C=C1)CBr)[N+](=O)[O-])=O | C9H8BrNO4
